US04559354
After the addition of 2 g of palladium-on-carbon catalyst (5%), a solution of 22 g of crude 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[4-(1-methyl-5-trifluoromethyl-1H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol in 320 ml of methanol is hydrogenated under normal conditions until the calculated quantity of hydrogen has been absorbed (3 hours). The product, which has partly crystallised out, is made into a solution by the addition of 1000 ml of dioxan and heating, the catalyst is filtered off and the filtrate is concentrated by evaporation. The crystalline residue that remains is recrystallised from approximately 400 ml of dioxan and yields 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(1-methyl-5-(trifluoromethyl)-1H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol having a melting point of 206°-208°.

reactant | 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[4-(1-methyl-5-trifluoromethyl-1H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol | 22 g | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C1=NN(C(=N1)C(F)(F)F)C)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C29H30F3N5O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 2 g | [Pd] | Pd
solvent | methanol | 320 ml | CO | CH4O
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(1-methyl-5-(trifluoromethyl)-1H-1,2,4-triazol-3-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C2=NN(C(=N2)C(F)(F)F)C)O)C=CC1O | C22H24F3N5O5
